US05252587
A mixture of 1.2 g, 4.2 mmol) of (Z)-O-(t-butyldimethylsilyl)-3-(t-butyldimethylsilyl)-2-propen-1-ol and 0.04 g of diisocyanate tetrabutylstannoxane [Otera, Nozaki, Tetrahedron Lett., 27, 5743 (1986)] in 140 ml of methanol is refluxed for 9 hours. Most of solvent is removed under reduced pressure and the residue is dissolved in a ether-water mixture. Etheral phase is washed with water and brine ,dried with sodium sulfate, filtered and concentrated under reduced pressure to afford 0.7 g (quantitatif crude yield) of (Z)-3-(t-butyldimethylsilyl)-2-propen-1-ol as a colorless liquid.

reactant | (Z)-O-(t-butyldimethylsilyl)-3-(t-butyldimethylsilyl)-2-propen-1-ol | [Si](C)(C)(C(C)(C)C)OC\C=C/[Si](C)(C)C(C)(C)C | C15H34OSi2
solvent | methanol | 140 ml | CO | CH4O
product | (Z)-3-(t-butyldimethylsilyl)-2-propen-1-ol | 0.7 g | [Si](C)(C)(C(C)(C)C)\C=C/CO | C9H20OSi
